US07622583B2
4-Chloro-N-(5-chloro-2-phenoxy-phenyl)-3-trifluoromethyl-benzenesulfonamide
To a solution of 5-chloro-2-phenoxy-phenylamine (75 mg, 0.34 mmol) in anhydrous pyridine (0.5 mL) was added drop wise a solution of 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (95 mg, 0.341 mmol) in pyridine (0.5 mL). The resulting mixture was stirred at room temperature for 2 h. The reaction mixture was separated by preparative HPLC using acetonitrile-water solvent mixture and pure product fractions were lyophilized to provide pure product as a solid. 1H NMR (400 MHz, CDCl3) δ 8.04 (d, J =2.0 Hz, 1 H), 7.80 (dd, J=8.4, 2.0 Hz, 1 H), 7.70 (d, J=2.4 Hz, 1 H), 7.51 (d, J=8.4 Hz, 1 H), 7.27-7.23 (m, 2 H), 7.14-7.10 (m, 1 H), 7.05-7.02 (m, 2 H), 6.66 (d, J=8.4 Hz, 1 H), 6.60-6.56 (m, 2 H). MS m/z:484.0 (M+Na).

reactant | 5-chloro-2-phenoxy-phenylamine | 0.34 mmol, 75 mg | ClC=1C=CC(=C(C1)N)OC1=CC=CC=C1 | C12H10ClNO
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.341 mmol, 95 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-N-(5-chloro-2-phenoxy-phenyl)-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)OC1=CC=CC=C1)C(F)(F)F | C19H12Cl2F3NO3S
